US05445762
4 , 13-Bis(2,2-dimethylbutyroyl)-1,7,10,16-tetraoxa-4,13-diazacyclooctadecane
Analogously to Example 2 from 1,7,10,16-tetraoxa-4,13-diazacyclooctadecane and 2,2-dimethylbutyryl chloride.

reactant | 1,7,10,16-tetraoxa-4,13-diazacyclooctadecane | O1CCNCCOCCOCCNCCOCC1 | C12H26N2O4
reactant | 2,2-dimethylbutyryl chloride | CC(C(=O)Cl)(CC)C | C6H11ClO
product | 4 , 13-Bis(2,2-dimethylbutyroyl)-1,7,10,16-tetraoxa-4,13-diazacyclooctadecane | CC(C(=O)N1CCOCCOCCN(CCOCCOCC1)C(C(CC)(C)C)=O)(CC)C | C24H46N2O6
